US05149699
Ethyl (2,6-Dimethyl-3H-pyrimidin-4-on-5-yl)acetate
A mixture of NaOEt (0.069 mol) in EtOH (prepared from 1.6 g of Na in 100 mL of EtOH), acetamidine hydrochloride (6.5 g, 0.069 mol), and diethyl 2-acetylsuccinate (15.0 g, 0.069 mol) was heated under reflux for 16 h. The mixture was concentrated, taken up in water (50 mL), and acidified with 2N HCl (12 mL). The aqueous mixture was extracted with CH2Cl2, and the extracts were dried (MgSO4) and concentrated. Trituration with ether gave 3.9 g (27%) of product as a white solid, mp 175°-177° C.

reactant | NaOEt | 0.069 mol | CC[O-].[Na+]
reactant | acetamidine hydrochloride | 0.069 mol, 6.5 g | Cl.C(C)(=N)N
reactant | diethyl 2-acetylsuccinate | 0.069 mol, 15.0 g | C(C)(=O)C(C(=O)OCC)CC(=O)OCC | C10H16O5
solvent | EtOH | 100 mL, 1.6 g | CCO | C2H6O
product | Ethyl (2,6-Dimethyl-3H-pyrimidin-4-on-5-yl)acetate | 3.9 g, 27% | CC1=NC(=C(C(N1)=O)CC(=O)OCC)C | C10H14N2O3
